US04724235
N'-[2-(Diethylamino)ethyl]-N-(1-methylethyl)-N-[4-(phenylsulfonyl)butyl]urea hydrate [1:0.5]
A solution of 1,1'-carbonyldiimidazole (6.00 g, 0.037 mole) and N,N-diethylethylenediamine (4.00 g, 0.034 mole) was stirred at room temperature for 2 hours in 200 ml of tetrahydrofuran. A solution of N-(1-methylethyl)-4-(phenylsulfonyl]-1-butylamine (free base 7.99 g, 0.0313 mole) in 100 ml of tetrahydrofuran was added and the solution was heated overnight at reflux. The reaction was stripped to dryness and the residue dissolved in chloroform. The chloroform was extracted with water, dried (sodium sulfate), filtered, and removed in vacuo. A dark brown oil was obtained upon removal of chloroform. This oil was subjected to flash chromatography on Silica Gel using 0.1N ammonium hydroxide-methanol for elution. This chromatography furnished 5.37 g (42.2% yield) of clear oil after drying in vacuo 18 hours at 60° C.

reactant | 1,1'-carbonyldiimidazole | 0.037 mole, 6.00 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-diethylethylenediamine | 0.034 mole, 4.00 g | C(C)N(CCN)CC | C6H16N2
reactant | N-(1-methylethyl)-4-(phenylsulfonyl]-1-butylamine | 0.0313 mole, 7.99 g | CC(C)NCCCCS(=O)(=O)C1=CC=CC=C1 | C13H21NO2S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N'-[2-(Diethylamino)ethyl]-N-(1-methylethyl)-N-[4-(phenylsulfonyl)butyl]urea hydrate | 5.37 g, 42.2% yield | O.C(C)N(CCNC(N(CCCCS(=O)(=O)C1=CC=CC=C1)C(C)C)=O)CC | InChI=1S/C20H35N3O3S.H2O/c1-5-22(6-2)16-14-21-20(24)23(18(3)4)15-10-11-17-27(25,26)19-12-8-7-9-13-19;/h7-9,12-13,18H,5-6,10-11,14-17H2,1-4H3,(H,21,24);1H2
